US05977141
(a) (S)-2-(4-Fluoro-benzenesulfonylamino)-3-(1H-Indol-3-yl)-propionic acid
In a manner to Example 4 (a), 4-fluoro-benzene-sulfonyl chloride was condensed with (S)-2-amino-3-(1H-Indol-3-yl)-propionic acid to give the title compound, mp=57-60° C.

reactant | 4-fluoro-benzene-sulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | (S)-2-amino-3-(1H-Indol-3-yl)-propionic acid | N[C@H](C(=O)O)CC1=CNC2=CC=CC=C12 | C11H12N2O2
product | (S)-2-(4-Fluoro-benzenesulfonylamino)-3-(1H-Indol-3-yl)-propionic acid | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)CC1=CNC2=CC=CC=C12 | C17H15FN2O4S
